US04917826
tarns-1-(3-Diethylaminopropyl)aminodecalin
Following the general procedure of Example 46, but starting with diethylaminopropylamine and trans-1-decalone, the title compound is produced. IR (liquid film) 3307, 2968, 2920, 2853, 2799, 1455, 1447, 1383, 1369, 1201, 1164, 1159, 1128, 1105, 1085, 1070. (PLA 2, diabetes-)

reactant | diethylaminopropylamine | C(C)N(CC)CCCN | C7H18N2
reactant | trans-1-decalone | C1CC[C@H]2[C@H](C1)CCCC2=O | C10H16O
product | 1-(3-Diethylaminopropyl)aminodecalin | C(C)N(CCCNC1CCCC2CCCCC12)CC | C17H34N2
